US04492702
Reflux a stirred solution of 16.2 gm of 3-(n-butyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one and 11.4 gm of anhydrous potassium carbonate powder in 600 ml of dry acetone for 30 minutes. 95% 2-bromoethanol (10.3 gm) is added dropwise to the solution. The reaction is refluxed for 26 hours, cooled and the solvent removed by stripping. The resulting solid is dissolved in 500 ml chloroform and the chloroform solution is washed with 300 ml water, twice with 100 ml of 0.5N sodium hydroxide solution and finally with 100 ml of water. The chloroform solution is dried over magnesium sulfate, filtered and the solvent is removed to give the crude product. The crude product is triturated with warm isopropyl ether to give 10.9 gm of the 3-(n-butyl)-4-(2-hydroxyethoxy)-1-phenyl-1,8-naphthyridin-2(1H)one; which after recrystallization from acetone melts at 138°-140° C.

reactant | 3-(n-butyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one | 16.2 gm | C(CCC)C=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C18H18N2O2
reactant | potassium carbonate | 11.4 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 10.3 gm | BrCCO | C2H5BrO
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 3-(n-butyl)-4-(2-hydroxyethoxy)-1-phenyl-1,8-naphthyridin-2(1H)one | 10.9 gm | C(CCC)C=1C(N(C2=NC=CC=C2C1OCCO)C1=CC=CC=C1)=O | C20H22N2O3
